US09102671B2
To a solution of (2R,4S)-tert-butyl 4-fluoro-2-(3-fluorophenyl)pyrrolidine-1-carboxylate (I-5A) (890 mg, 3.14 mmol) in DCM (5 mL) at room temperature was added TFA (5 mL). The mixture was stirred at room temperature for 2 hours. All the solvents were removed under reduced pressure. The crude was extracted with EtOAc, washed with aqueous NaHCO3 and brine, dried over sodium sulfate, filtered and concentrated to yield (2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidine (I-6). 1H NMR (400 MHz, CDCl3) δ 7.31-7.25 (m, 1 H), 7.15-7.10 (m, 2 H), 6.96-6.90 (m, 1 H), 5.29 (d, J=53.6 Hz 1 H), 4.50 (dd, J=9.6, 6.4 Hz, 1 H), 3.43-3.33 (m, 1 H), 3.31-3.28 (m, 1 H), 2.51 (ddd, J=21.2, 14.0, 6.4 Hz, 1 H), 2.23 (bs, 1 H), 1.79 (dddd, J=39.6, 14.4, 10.0, 4.4 Hz, 1 H). MS m/z 184.1 (M+1)+.

reactant | (2R,4S)-tert-butyl 4-fluoro-2-(3-fluorophenyl)pyrrolidine-1-carboxylate | 3.14 mmol, 890 mg | F[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C15H19F2NO2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidine | F[C@H]1C[C@@H](NC1)C1=CC(=CC=C1)F | C10H11F2N
